US04647560
7-Chloro-4,5-dihydro-5-phenyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one
4.0 g (0.012 mole) of 7-chloro-5-phenyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one are hydrogenated in 160 ml of methanol with the addition of 10 ml of a 30% strength isopropanol/HCl solution in the presence of platinum at 25° C. in the course of 3 hours, until the calculated amount of hydrogen has been taken up. After filtration, the solvent is distilled off, the residue is rendered alkaline with aqueous concentrated ammonia solution and the base is extracted by shaking with methylene chloride. The organic phase is washed with water, dried over Na2SO4 and concentrated and the residue is chromatographed on silica gel 60 (Merck); eluting agent: methylene chloride/methanol/25% strength aqueous ammonia solution (14:2.5:0.5).

reactant | 7-chloro-5-phenyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one | 0.012 mole, 4.0 g | ClC=1C=CC2=C(C(=NC3(CCNCC3)C(N2)=O)C2=CC=CC=C2)C1 | C19H18ClN3O
reactant | isopropanol HCl | C(C)(C)O.Cl
reactant | hydrogen | [H][H] | H2
solvent | methanol | 160 ml | CO | CH4O
catalyst | platinum | [Pt] | Pt
product | 7-Chloro-4,5-dihydro-5-phenyl-spiro[1H-1,4-benzodiazepine-3,4'-piperidin]-2(3H)-one | ClC=1C=CC2=C(C(NC3(CCNCC3)C(N2)=O)C2=CC=CC=C2)C1 | C19H20ClN3O
